US04542142
A solution of 25 g of 1,1-dimethylethyl (1R,cis) 2,2 dimethyl-3-(2',2'-dibromovinyl)-cyclopropane-carboxylate in 250 ml of tetrahydrofuran was admixed with 48 ml of a 20% solution of butyllithium in cyclohexane with stirring at -65° C. and the mixture was stirred for one hour at -65° C. 9.6 ml of phenyl chloroformate were added to mixture which was then stirred at -65° C. for one hour. The temperature was allowed to return to room temperature while the stirring was maintained and the mixture was poured into a saturated aqueous solution of monosodium phosphate. The mixture was extracted with ether and the ether phase was washed with water and dried. The 24.6 g of oil residue was chromatographed over silica gel and was eluted with a 9-1 cyclohexane ethyl acetate mixture to obtain 14.4 g of 1,1-dimethylethyl (1R,cis) 2,2-dimethyl-3-[3-oxo-3-phenoxy-1-propynyl]-cyclopropane-carboxylate.

reactant | 1,1-dimethylethyl (1R,cis) 2,2 dimethyl-3-(2',2'-dibromovinyl)-cyclopropane-carboxylate | 25 g | CC1([C@@H]([C@@H]1C=C(Br)Br)C(=O)OC(C)(C)C)C | C12H18Br2O2
reactant | butyllithium | C(CCC)[Li]
reactant | phenyl chloroformate | 9.6 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | monosodium phosphate | P(=O)([O-])(O)O.[Na+]
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | cyclohexane | C1CCCCC1 | C6H12
product | 1,1-dimethylethyl (1R,cis) 2,2-dimethyl-3-[3-oxo-3-phenoxy-1-propynyl]-cyclopropane-carboxylate | 14.4 g | CC1([C@@H]([C@@H]1C#CC(OC1=CC=CC=C1)=O)C(=O)OC(C)(C)C)C | C19H22O4
